US07601716B2
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-thiophen-2-yl-ethyl)benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 2-(2-aminoethyl)thiophene as in General Procedure 10 to give the title compound. LCMS: m/z=556.91 (M+H+); retention time=0.92 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 2-(2-aminoethyl)thiophene | NCCC=1SC=CC1 | C6H9NS
product | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(2-thiophen-2-yl-ethyl)benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)NCCC=2SC=CC2)C=C3)C1)C(F)(F)F | C28H24ClF3N4OS
